US07160882B2
e) 7-benzyloxy-5-(2-chloroacetyl)-1H-quinolin-2-one
5-acetyl-7-benzyloxy-1H-quinolin-2-one (7.0 g, 23.86 mmol) is dissolved in a mixture of 1,2-dichloroethane (147 mL), glacial acetic acid (43 mL) and water (7 mL) and combined with N-benzyl-trimethylammonium-dichloriodate (19.0 g, 54.58 mmol). The mixture is stirred for 4.5 hours at 65° C., then diluted with sodium bicarbonate solution and 5% sodium bisulphite solution and stirred for 5 minutes. The precipitate formed is filtered off, washed with water (2×20 mL) and dried in the oven. Yield: 6.0 g (77%); mass spectroscopy: [M+H]+=328.

reactant | 5-acetyl-7-benzyloxy-1H-quinolin-2-one | 23.86 mmol, 7.0 g | C(C)(=O)C1=C2C=CC(NC2=CC(=C1)OCC1=CC=CC=C1)=O | C18H15NO3
reactant | 1,2-dichloroethane | 147 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 43 mL | C(C)(=O)O | C2H4O2
solvent | water | 7 mL | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sodium bisulphite | S([O-])(O)=O.[Na+]
product | 7-benzyloxy-5-(2-chloroacetyl)-1H-quinolin-2-one | C(C1=CC=CC=C1)OC1=CC(=C2C=CC(NC2=C1)=O)C(CCl)=O | C18H14ClNO3
